US08754107B2
A solution of (2S,4R)-1-tert-butyl 2-methyl 4-(tert-butyldimethylsilyloxy)pyrrolidine-1,2-dicarboxylate (5.34 g, 14.8 mmol) in THF (20 mL) was cooled to 0° C. and lithium borohydride (0.485 g, 22.2 mmol) in THF (10 mL) was added dropwise. The mixture was stirred for about 16 hours while the ice-salt bath gradually melted. Ethyl acetate (30 mL) was added followed by the addition of ice. The organic portion was separated and quenched by a dropwise addition of 1N aqueous phosphoric acid. The organic portion was separated and washed with water (120 mL), saturated sodium bicarbonate solution (2×120 mL), and brine (100 mL) and dried over magnesium sulfate. The filtrate was concentrated under reduced pressure to yield (2S,4R)-tert-butyl 4-(tert-butyldimethylsilyloxy)-2-(hydroxymethyl)pyrrolidine-1-carboxylate (4.8 g, 14.4 mmol) as a colorless oil. RP-HPLC (Table 1, Method f) Rt 6.25 min; m/z: (M−H)− 390.

reactant | (2S,4R)-1-tert-butyl 2-methyl 4-(tert-butyldimethylsilyloxy)pyrrolidine-1,2-dicarboxylate | 14.8 mmol, 5.34 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C17H33NO5Si
reactant | lithium borohydride | 22.2 mmol, 0.485 g | [BH4-].[Li+]
reactant | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2S,4R)-tert-butyl 4-(tert-butyldimethylsilyloxy)-2-(hydroxymethyl)pyrrolidine-1-carboxylate | 14.4 mmol, 4.8 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO | C16H33NO4Si
